US06313312B1
3-Hexyl-6-(3-nitrophenyl)-6-propyl-3-azabicyclo[3.1.0]hexane
To a stirred solution of 3-hexyl-6-(3-nitrophenyl)-6-propyl-3-azabicyclo[3.1.0]hexane-2,4-dione (Preparation 64, 0.28 g, 0.78 mmol) in tetrahydrofuran (3 ml), under nitrogen, was added borane tetrahydrofuran complex (1M in tetrahydrofuran, 1.7 ml, 1.7 mmol) and the reaction mixture was heated under reflux for 2 h. The reaction mixture was cooled to room temperature, methanol (1.5 ml) was added and then the reaction mixture was heated under reflux for 16 h. The reaction mixture was concentrated in vacuo and the residue was dissolved in methanol (14 ml) and refluxed for 5 h. The reaction mixture was concentrated in vacuo, methanol (14 ml) was added and the reaction mixture was refluxed for a further 3 h before concentrating in vacuo. The crude residue was purified by chromatography on a Biotage Flash12M™ cartridge packed with silica gel (8 g), eluting with hexane:ethyl acetate (4:1) to give the title compound as a yellow oil (0.2 g, 79%).

reactant | 3-hexyl-6-(3-nitrophenyl)-6-propyl-3-azabicyclo[3.1.0]hexane-2,4-dione | 0.78 mmol, 0.28 g | C(CCCCC)N1C(C2C(C2C1=O)(CCC)C1=CC(=CC=C1)[N+](=O)[O-])=O | C20H26N2O4
reactant | borane tetrahydrofuran | 1.7 mmol, 1M, 1.7 ml | O1CCCC1.B
reactant | methanol | 1.5 ml | CO | CH4O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 3-Hexyl-6-(3-nitrophenyl)-6-propyl-3-azabicyclo[3.1.0]hexane | 0.2 g, 79% | C(CCCCC)N1CC2C(C2C1)(CCC)C1=CC(=CC=C1)[N+](=O)[O-] | C20H30N2O2
